US08791255B2
1.5 ml of 4M hydrochloric acid in dioxane are added to a solution of 223 mg of 4-{5-fluoro-2-[2-(4-morpholin-4-yl-6-oxo-1,6-dihydropyrimidin-2-yl)acetylamino]phenoxymethyl}piperidine-1-carboxylic acid tert-butyl ester in 6 ml of ethanol. After stirring at ambient temperature for 20 h, the reaction medium is concentrated under reduced pressure, taken up with a solution of aqueous ammonia in methanol, and then again concentrated to dryness. After purification by silica column chromatography, eluent: 90/10 CH2Cl2/MeOH, 65 mg of N-[4-fluoro-2-(piperidin-4-ylmethoxy)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained, the characteristics of which are the following:

reactant | hydrochloric acid | 4M, 1.5 ml | Cl | ClH
reactant | 4-{5-fluoro-2-[2-(4-morpholin-4-yl-6-oxo-1,6-dihydropyrimidin-2-yl)acetylamino]phenoxymethyl}piperidine-1-carboxylic acid tert-butyl ester | 223 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=CC(=C1)F)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C27H36FN5O6
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-[4-fluoro-2-(piperidin-4-ylmethoxy)phenyl]-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 65 mg | FC1=CC(=C(C=C1)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O)OCC1CCNCC1 | C22H28FN5O4
